US08314253B2
3-Methoxy-6-methyl-benzene-1,2-diamine was synthesized by suspending 3.3 g of 1-methoxy-4-methyl-2,3-dinitro-benzene (Can. J. Chem. 65, 1233-1240, 1987) in 100 mL EtOH, evacuating 3 times with N2 and addition of 450 mg of 10wt % Pd/C. The reaction mixture was stirred under a H2 atmosphere (balloon) overnight. Filtration over a pad of celite and washing with 100 mL EtOH yielded after concentration in vacuo 2.2 g of the desired compound as brown oil.

reactant | 1-methoxy-4-methyl-2,3-dinitro-benzene | 3.3 g | COC1=C(C(=C(C=C1)C)[N+](=O)[O-])[N+](=O)[O-] | C8H8N2O5
solvent | EtOH | 100 mL | CCO | C2H6O
product | 3-Methoxy-6-methyl-benzene-1,2-diamine | COC1=C(C(=C(C=C1)C)N)N | C8H12N2O
